US04605538
About 100 parts of impure molybdenum trioxide are slurried in about 40 parts of water and enough reagent grade ammonium hydroxide to completely dissolve the molybdenum trioxide. The resulting solution is filtered to remove the hydroxides of iron. About 16 parts of nicotine are added to the filtered solution and the pH is adjusted to about 2.0 with hydrochloric acid. The resulting white precipitate of nicotine-molybdenum is filtered off and washed with about 1000 parts of hot water. The nicotine-molybdenum precipitate is again dissolved in ammonium hydroxide, reslurried, and the pH of the nicotine-treated solution is adjusted to about 2.0 with hydrochloric acid to reprecipitate the nicotine-molybdenum compound which is then filtered off and washed with about 1000 parts of hot water. The resulting nicotine-molybdenum precipitate is again dissolved in ammonium hydroxide. The nicotine phase comes to the top of the reaction vessel and is separated for reuse. The molybdenum containing phase is then evaporated to dryness to produce ammonium paramolybdate crystals. The ammonium paramolybdate is reduced to molybdenum powder.

reactant | molybdenum trioxide | [Mo](=O)(=O)=O
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | O | H2O
product | ammonium paramolybdate | N.N.N.N.N.N.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.[Mo].[Mo].[Mo].[Mo].[Mo].[Mo].[Mo] | InChI=1S/7Mo.6H3N.24H2O/h;;;;;;;6*1H3;24*1H2
